US04640703
38.6 g (0.20 mole) of 2.5-dichloro-3-nitropyridine, 41.2 g (0.21 mole) of methyl 2-(4-hydroxyphenoxy)propionate, 400 ml of acetonitrile, 35.9 g (0.26 mole) of potassium carbonate and 0.33 g (0.002 mole) of potassium iodide are heated for 13 hours to 80° C. The reaction mixture is filtered and the filter cake is washed with acetonitrile. The filtrate is concentrated by evaporation and the residue is taken up in 500 ml of methlyene chloride. After treating the solution with 15 g of activated carbon, it is filtered through a layer of silica gel and the filtrate is concentrated by evaporation. The residue is crystallised from a mixture of hexane and ethyl acetate, affording 65.7 g (93.1% of theory) of methyl 2-[4-(5-chloro-3-nitropyridin-2-yloxy)phenoxy]propionate with a melting point of 91°-92° C.

reactant | 2.5-dichloro-3-nitropyridine | 0.20 mole, 38.6 g | ClC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | methyl 2-(4-hydroxyphenoxy)propionate | 0.21 mole, 41.2 g | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
reactant | potassium carbonate | 0.26 mole, 35.9 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium iodide | 0.002 mole, 0.33 g | [I-].[K+]
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | methyl 2-[4-(5-chloro-3-nitropyridin-2-yloxy)phenoxy]propionate | 65.7 g, 93.1% | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)OC)C)C=C1)[N+](=O)[O-] | C15H13ClN2O6
